US09126950B2
In a 25 mL, 3-neck RBF equipped with a magnetic stirrer, and thermo pocket was sequentially charged with tert-butyl (3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate (1.2 g) in DCM (10 mL). Trifluoroacetic acid (6.0 mL) was added drop wise into the reaction mixture at 0° C. The reaction mixture was stirred at 0° C. for 45 minutes. The reaction was monitored by TLC using ethyl acetate:hexane (7:3) as mobile phase. After completion, the reaction mixture was quenched in water and neutralized with sodium bicarbonate. The mixture was extracted into DCM. The organic layer was washed with brine, dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. to give 0.94 g of N4-(3-aminophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine which was used without further purification.

reactant | tert-butyl (3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)carbamate | 1.2 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C24H28FN5O4
reactant | Trifluoroacetic acid | 6.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N4-(3-aminophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine | 0.94 g | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCOC | C19H20FN5O2
